US09353107B2
Step-iii: 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)ethanol
Using similar reaction conditions as described in step-iii of example-1, 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)ethanol (200 mg, 0.259 mmol) was hydrolyzed by lithium hydroxide (108 mg, 2.59 mmol), THF/Methanol/water (5/5/2.5 ml) to yield 3 mg (2.2% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.34 (s, 1H), 7.75-7.74 (d, 1H), 7.44-7.41 (m, 2H), 7.28-7.27 (m, 2H), 7.00-6.7 (m, 4H), 6.52-6.51 (d, 1H), 5.26 (s, 2H), 3.73-3.69 (t, 2H), 3.26 (m, 4H), 2.91 (m, 4H), 2.79-2.77 (t, 2H), 2.12-2.08 (m, 6H). MS: m/z=525.2 (M+1), HPLC: 80.69% in method A.

reactant | 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)ethanol | 0.259 mmol, 200 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)CCO)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C38H39FN6O3S
reactant | lithium hydroxide | 2.59 mmol, 108 mg | [OH-].[Li+]
solvent | THF Methanol water | 2.5 ml | C1CCOC1.CO.O
product | 2-(4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)ethanol | 3 mg, 2.2% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)CCO)C)C=CC1 | C31H33FN6O
